US06509328B1
6-(2-Imidazol-1-yl-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxin-4-one
Prepared from 3-(2-imidazol-1-yl-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester (Example H5) by stirring in TFA/acetone with TFAA according to general procedure J (method b). Obtained as a brown solid (10.8 g).

reactant | 3-(2-imidazol-1-yl-pyridin-4-yl)-3-oxo-propionic acid tert.-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=NC=C1)N1C=NC=C1)=O | C15H17N3O3
reactant | TFAA | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | TFA acetone | C(=O)(C(F)(F)F)O.CC(=O)C
product | 6-(2-Imidazol-1-yl-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxin-4-one | 10.8 g | N1(C=NC=C1)C1=NC=CC(=C1)C1=CC(OC(O1)(C)C)=O | C14H13N3O3
